US05663200
7a) 5(S)-[1(S)-(Boc-Amino)-2-(p-benzyloxyphenyl)ethyl]-3(R)-[(p-methoxyphenyl)methyl]dihydrofuran-2-(3H)-one
In analogy with Example 5d), 2.9 g (7.04 mmol) of 5(S)-[1(S)-(Boc-amino)-2-(p-benzyloxy-phenyl)ethyl]dihydrofuran-2-(3H)-one [preparation, see Example 1g)], dissolved in 10.3 ml of THF and 1.2 ml of DMPU, are deprotonated, at -70° C., with 14.1 ml of a 1M solution of lithium bis(trimethylsilyl)amide in THF, and alkylated (at from -75° C. to -50° C.), with 2.6 g (10.57 mmol) of p-methoxybenzyl iodide [preparation, see Example 7e)] in 10 ml of THF. Protonation, at -75° C., with 2.6 ml (35.2 mmol) of propionic acid and 2.6 ml of water, extraction and column chromatography (SiO2, hexane/ethyl acetate, 2:1) affords the title compound: TLC Rf (D)=0.48; tRet (II)=18.8 min.

reactant | 5(S)-[1(S)-(Boc-amino)-2-(p-benzyloxy-phenyl)ethyl]dihydrofuran-2-(3H)-one | 7.04 mmol, 2.9 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)[C@@H]1CCC(O1)=O | C24H29NO5
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | p-methoxybenzyl iodide | 10.57 mmol, 2.6 g | COC1=CC=C(CI)C=C1 | C8H9IO
reactant | propionic acid | 35.2 mmol, 2.6 ml | C(CC)(=O)O | C3H6O2
solvent | THF | 10.3 ml | C1CCOC1 | C4H8O
solvent | DMPU | 1.2 ml | CN1CCCN(C1=O)C | C6H12N2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 2.6 ml | O | H2O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 5(S)-[1(S)-(Boc-Amino)-2-(p-benzyloxyphenyl)ethyl]-3(R)-[(p-methoxyphenyl)methyl]dihydrofuran-2-(3H)-one | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)[C@@H]1C[C@H](C(O1)=O)CC1=CC=C(C=C1)OC | C32H37NO6
